US06355726B1
2-tritylaminoethylformamide;
C22H22N2O (330.42); RF=0.87 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour); 2-(4-monomethoxytrityl)aminoethylformamide; C23H24N2O2 (360.46); RF=0.86 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl vapour); 1H NMR (CDCl3, 250.133 MHz):=1.70 (br s, 1 H); 2.32 (tr, 2H, J=6.0 Hz); 3.37 (m, 2H); 3.76 (s, 3H); 5.99 (br s, 1H); 6.78-7.49 (m, 14H); 8.17 (s, 1H). 13C NMR (CDCl3, 62.896 MHz):=38.7 (CH2); 43.1 (CH2); 55.2 (CH3); 70.2 (C); 113.2 (CH); 126.4 (CH); 127.9 (CH); 128.3 (CH); 129.7 (CH); 137.8 (C); 145.9 (C); 158.0 (C); 164.7 (CHO). 2-(4,4′-dimethoxytrityl)aminoethylformamide; C24H26N2O3 (390.49); RF=0.92 (DCM/MeOH 5:1, v/v); spot stains with ninhydrin spray or with HCl).

reactant | ninhydrin spray | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
reactant | HCl | Cl | ClH
reactant | 2-(4-monomethoxytrityl)aminoethylformamide | COC1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)NCCNC=O)C=C1 | C23H24N2O2
reactant | 2-(4,4′-dimethoxytrityl)aminoethylformamide | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)NCCNC=O)C=C1 | C24H26N2O3
solvent | DCM MeOH | C(Cl)Cl.CO
product | 2-tritylaminoethylformamide | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NCCNC=O | C22H22N2O
